US04243812
In 30 ml of ether was dissolved 2.5 g of 5-acetyl-3-methylisoxazole. While gaseous hydrogen chloride was passed through the resultant solution with stirring, a solution of 4.5 g of amyl nitrite in 10 ml of ether was dropped thereinto. After a further one hour stirring at room temperature after completion of said dropwise addition, the resulting precipitate was isolated by filtration. Recrystallization from chloroform gave 1.0 g of (3-methylisoxazole-5-yl)glyoxal-2-oxim having m.p. of 179° C.-180° C. Yield, 27%.

reactant | 5-acetyl-3-methylisoxazole | 2.5 g | C(C)(=O)C1=CC(=NO1)C | C6H7NO2
reactant | hydrogen chloride | Cl | ClH
reactant | amyl nitrite | 4.5 g | N(=O)OCCCCC | C5H11NO2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | (3-methylisoxazole-5-yl)glyoxal-2-oxim | 1.0 g | CC1=NOC(=C1)C(=O)C=NO | C6H6N2O3
